US03960814
To a 300 ml, three-necked, round bottomed flask equipped with a magnetic stirrer, a thermometer, and a 125 ml dropping funnel topped with a drying tube was added triethylamine (6.1 g, 60 mmoles) and ether (150 ml). The solution was cooled to -5°C in an ice/salt bath and a solution of terephthalhydroximoyl chloride (4.7 g, 20 mmoles) in ether (75 ml) was added dropwise at -5°C with rapid stirring over a period of 20 minutes. The resulting white suspension was stirred an additional 40 minutes at -5°C. Cold distilled water (30 ml) was then added and the suspension was stirred an additional 20 minutes at 0°to -5°C and was then filtered on a sintered glass filter. The nearly white solid was washed thoroughly on the filter with cold distilled water (3 × 25 ml) and cold ether (3 ×0 25 ml) and was then dried in a vacuum desiccator for 2 1/4hours (0.7 mm Hg) to yield 3.1 g (95%) of nearly white, fluffy terephthalonitrile oxide (TPNO). (As a word of caution, the dry material decomposed explosively when heated to 155°C in air).

reactant | triethylamine | 60 mmoles, 6.1 g | C(C)N(CC)CC | C6H15N
reactant | terephthalhydroximoyl chloride | 20 mmoles, 4.7 g | C(C1=CC=C(C(=NO)Cl)C=C1)(=NO)Cl | C8H6Cl2N2O2
solvent | ether | 75 ml | CCOCC | C4H10O
solvent | ether | 150 ml | CCOCC | C4H10O
product | terephthalonitrile oxide | C(C1=CC=C(C#[N+][O-])C=C1)#N | C8H4N2O
